US09120793B2
[2-(2,6-Dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methanol
To a solution of methyl 2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylate (0.35 g, 1.24 mmol) in DCM (20 mL), DiBAL-H (1 M solution in toluene, 4.98 mL, 4.98 mmol) is added drop wise at 0° C. The reaction mixture is warmed to room temperature and stirred for 2 hours. The reaction is quenched with aqueous NH4Cl solution and extracted with EtOAc (4×50 mL). The combined extracts are dried over sodium sulphate, filtered, and concentrated. The crude material is purified by silica gel chromatography (combiflash) eluting with 50% EtOAc in hexanes. The product is concentrated to give the title compound as a transparent liquid (0.18 g, 57%). LCMS m/z 254 (M+H)+.

reactant | methyl 2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylate | 1.24 mmol, 0.35 g | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)C(=O)OC)=N1 | C16H15N3O2
reactant | DiBAL-H | 4.98 mmol, 1 M, 4.98 mL | CC(C)C[AlH]CC(C)C
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | [2-(2,6-Dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methanol | 0.18 g, 57% | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)CO)=N1 | C15H15N3O
